US06660873B2
5-Aminomethyl-1-(3-dimethylamino-propyl)-1-(4-fluoro-phenyl)-1,3-dihydro-isobenzofuran
1-(3-Dimethylamino-propyl)-1-(4-fluoro-phenyl)-3-oxo-1,3-dihydro-isobenzofuran-5-carbonitrile (5.4 g, 16.2 mmol) was dissolved in dry THF (5 mL) and diluted with dry ether (50 mL). This solution was added dropwise to a refluxing suspension of lithium aluminium hydride (2.5 g, 65 mmol) in dry ether (150 mL) over 10-15 minutes, after which the resulting suspension was heated at reflux for a further 4 h. The solution was allowed to cool to room temperature and was stirred at room temperature overnight. The reaction was quenched with a minimum of water, and the resulting solution/suspension was dried over anhydrous magnesium sulfate. The mixture was filtered, and the solid cake was washed with THF. The combined filtrates were evaporated to give an oil. The oil was dissolved in toluene (200 mL) and was stirred with an aqueous solution of sulfuric acid (10 ml, 70% v/v) for 3 h. The mixture was diluted with water, and the pH was adjusted to >9 by the addition of aqueous ammonia solution (25% w/v). The toluene was separated, and the aqueous phase was extracted with further toluene. The combined toluene extracts were dried over anhydrous magnesium sulfate, filtered and evaporated to give the title compound as a yellow oil (4.4 g, 84%). 1H NMR (CDCl3): δ 1.25-1.40 (m, 1H), 1.40-1.55 (m, 1H), 2.11 (ddd, 1H), 2.13 (t, 3H), 2.15 (ddd, 1H), 2.21 (t, 2H), 3.85 (s, 2H), 5.11 (d, 1H), 5.14 (d, 1H), 6.96 (t, 2H), 7.15 (s, 1H), 7.21 (d, 1H), 7.22 (d, 1H), 7.45 (dd, 2H).

reactant | 1-(3-Dimethylamino-propyl)-1-(4-fluoro-phenyl)-3-oxo-1,3-dihydro-isobenzofuran-5-carbonitrile | 16.2 mmol, 5.4 g | CN(CCCC1(OC(C2=CC(=CC=C12)C#N)=O)C1=CC=C(C=C1)F)C | C20H19FN2O2
reactant | lithium aluminium hydride | 65 mmol, 2.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ammonia | N | H3N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | ether | 150 mL | CCOCC | C4H10O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 5-Aminomethyl-1-(3-dimethylamino-propyl)-1-(4-fluoro-phenyl)-1,3-dihydro-isobenzofuran | 4.4 g, 84% | NCC=1C=C2COC(C2=CC1)(C1=CC=C(C=C1)F)CCCN(C)C | C20H25FN2O
